US06610701B2
Step B: 5-(Hydroxymethyl)-benzimidazole
To a cooled (0° C.) suspension of ethyl-benzimidazole-5-carboxylate (4.76 g, 25 mmol) in CH2Cl2 (100 mL) was added a 1 M solution of DIBAL in CH2Cl2 (100 mL) and the mixture was stirred for 4 h. The reaction was quenched by the sequential addition of MeOH (8 mL), 1M NaOH (16 mL), and 30% sodium potassium tartrate (40 mL). The mixture was warmed to RT and filtered, and the solid residue was washed with CH2Cl2. The filtrate was concentrated in vacuo to afford the title compound as a brown solid: 1H NMR (400 MHz, DMSO-d6): δ4.58 (s, 1H), 7.14 (m, 1H), 7.46 (s, 1H), 7.51 (m, 1H), 8.15 (s, 1H); HRMS (FAB) C8H9N2O calcd. 149.1723 (M+1). Found 149.1045.

reactant | ethyl-benzimidazole-5-carboxylate | 25 mmol, 4.76 g | C(C)OC(=O)C1=CC2=C(N=CN2)C=C1 | C10H10N2O2
reactant | DIBAL | CC(C)C[AlH]CC(C)C
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 5-(Hydroxymethyl)-benzimidazole | OCC1=CC2=C(N=CN2)C=C1 | C8H8N2O
